US08071762B2
5-tert-Butyl-indan-2-ylamine
5-tert-Butyl-indan-1,2-dione 2-oxime (11.67 g) was hydrogenated over 10% palladium on carbon catalyst (2.95 g) using a mixture of 233 ml acetic acid and 15.6 ml concentrated sulfuric acid as solvent. The reaction was run at ambient temperature for 17 hours, under 60 psi hydrogen. After removal of catalyst by filtration, the filtrate was quenched by dropwise addition of 30 ml conc. ammonium hydroxide. The quenched mixture was then extracted with ethyl ether, the organic extracts dried with magnesium sulfate, and the solvent removed under vacuum to give 3.50 g of the product which was used without further purification. 1H NMR (300 MHz, CDCl3) 7.17 (m, 3H), 3.84 (m, 1H), 3.14 (m, 2H), 2.67 (m, 2H), 1.31 (s, 9H). MS (CSI) m/e 190 (M+H)+.

reactant | 5-tert-Butyl-indan-1,2-dione 2-oxime | 11.67 g | C(C)(C)(C)C=1C=C2CC(C(C2=CC1)=O)=NO | C13H15NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.95 g | [Pd] | Pd
solvent | acetic acid | 233 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 15.6 ml | S(O)(O)(=O)=O | H2O4S
product | 5-tert-Butyl-indan-2-ylamine | 3.50 g | C(C)(C)(C)C=1C=C2CC(CC2=CC1)N | C13H19N
